US05665748
A mixture of 4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]cinnamaldehyde (4.00 g), 2,4-oxazolidinedione (2.86g), piperidine (0.60 g) and ethanol (50 ml) was heated for 2 hours under reflux. The reaction mixture was concentrated and the residue was subjected to silica gel column chromatography. Fractions eluted with ethyl acetate-chloroform (1:4) gave crystals. The crystals were dissolved in tetrahydrofuran (100 ml). To the solution was added palldium-carbon (5%, 1.40 g). The mixture was subjected to catalytic hydrogenation at room temperature under atmospheric pressure. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography. From the fractions eluted with chloroform-methanol (100:2), 5-[3-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]propyl]-2,4-oxazolidinedione (1.10 g, 21%) was obtained. Recrystallization from dichloromethane-isopropylether gave colorless prisms. Melting point: 126°-127° C.

reactant | 4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]cinnamaldehyde | 4.00 g | CN(C1=NC=CC=C1)CCOC1=CC=C(C=CC=O)C=C1 | C17H18N2O2
reactant | 2,4-oxazolidinedione | 2.86g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | piperidine | 0.60 g | N1CCCCC1 | C5H11N
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-[3-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]propyl]-2,4-oxazolidinedione | 1.10 g, 21% | CN(C1=NC=CC=C1)CCOC1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C20H23N3O4
